US04649150
N-Phenyl-N'-[4-(2-methyl-imidazol-4-yl)phenyl]-formamidine
2-Methyl-4-(4-amino-phenyl)-1H-imidazole (5 g) was added to a solution of ethyl N-phenyl-formamidate (5 g) in acetone (25 ml). After 3 hours of stirring at room temperature, the solid which separated out was filtered off and dried. The product was treated with glacial acetic acid in acetone. The acetate salt which precipitated was filtered off and dried to give 4.6 g of the title compound.

reactant | 2-Methyl-4-(4-amino-phenyl)-1H-imidazole | 5 g | CC=1NC=C(N1)C1=CC=C(C=C1)N | C10H11N3
reactant | N-n-Propyl-N'-[2-methoxy-4-(2-methyl-imidazol-4-yl)phenyl]-formamidine. Maleate salt | 25 ml | C(\C=C/C(=O)O)(=O)O.C(CC)NC=NC1=C(C=C(C=C1)C=1N=C(NC1)C)OC
product | N-Phenyl-N'-[4-(2-methyl-imidazol-4-yl)phenyl]-formamidine | 4.6 g | C1(=CC=CC=C1)NC=NC1=CC=C(C=C1)C=1N=C(NC1)C | C17H16N4
